US04935431
6-Butyrylthieno[3,2-b]pyridin-7(4H)-one (7.9 g, 0.0357 mol) and phosphorus oxychloride (30 ml) were heated under reflux for 1 hour. After allowing to cool the reaction mixture was poured onto ice basified with concentrated ammonia solution and extracted with dichloromethane (3×150 ml). The combined dichloromethane extracts were dried, filtered and evaporated to dryness to give 6-butyryl-7-chlorothieno[3,2-b]pyridine, 5.5 g. Recrystallization from hexane gave an analytically pure sample, m.p. 78°-80°.

reactant | 6-Butyrylthieno[3,2-b]pyridin-7(4H)-one | 0.0357 mol, 7.9 g | C(CCC)(=O)C=1C(C2=C(NC1)C=CS2)=O | C11H11NO2S
reactant | ammonia | N | H3N
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-butyryl-7-chlorothieno[3,2-b]pyridine | C(CCC)(=O)C=1C(=C2C(=NC1)C=CS2)Cl | C11H10ClNOS
